*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL182MK25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL182MK25H_20deg-C 1 2

C1 4 2 4.67e-04
C2 5 2 8.90e-04
C3 6 2 1.79e-04
R1 3 4 2.59e-02
R2 4 5 7.56e-03
R3 5 6 1.17e-01
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL182MK25H_-40deg-C 1 2

C1 4 2 1.77e-06
C2 5 2 2.17e-04
C3 6 2 1.18e-03
R1 3 4 1.87e-01
R2 4 5 9.07e-02
R3 5 6 1.35e-01
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL182MK25H_135deg-C 1 2

C1 4 2 1.40e-03
C2 5 2 2.66e-04
C3 6 2 7.60e-05
R1 3 4 1.30e-02
R2 4 5 1.19e-01
R3 5 6 7.41e+00
L1 1 3 5.70e-09

.ENDS
*$
